US04036979
Preparation of (+)-4,5,6,7-tetrahydro-7-oxobenzo[b]thiophen-4-amine hydrochloride
A mixture of (+)-N-(4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-yl)formamide (52.65 grams) in 525 ml. of 95% ethanol and 525 ml. of 2N HCl is heated at reflux for 2 hours. The mixture is cooled, filtered through glass wool and the filtrate is evaporated to dryness. The dark solid is dissolved in 180 ml. of water and the insoluble material is collected by filtration. The filter cake is washed with 70 ml. of water and the combined solution containing the title compound is used in the next operation. A 3 ml. solution is evaporated to dryness and the residue is dissolved in 95% ethanol. The ethanol solution is decolorized with activated carbon and filtered. The filtrate is evaporated to dryness to afford 0.5 grams of the title compound, m.p. 212°-214° C. (dec.), [α]D26 = + 13.56° (c, 0.59 in methanol).

reactant | (+)-N-(4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-yl)formamide | 52.65 grams | O=C1CCC(C2=C1SC=C2)NC=O | C9H9NO2S
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (+)-4,5,6,7-tetrahydro-7-oxobenzo[b]thiophen-4-amine hydrochloride | 0.5 grams | Cl.O=C1CCC(C2=C1SC=C2)N | InChI=1S/C8H9NOS.ClH/c9-6-1-2-7(10)8-5(6)3-4-11-8;/h3-4,6H,1-2,9H2;1H
